US06774082B2
Preparation of 7,10,13-tri (t-butoxycarbonyl)-7,10,13-triazapentadecanol Tosylate
A 6.1 g amount of 7,10,13-tri (t-butoxycarbonyl)-7,10,13-triazapentadecanol, 100 mg of dimethylaminopyridine, and 4 ml of triethylamine in 100 ml of CH2Cl2 was stirred at 0° C. Dropwise, 2.64 of tosyl chloride in 20 ml of CH2Cl2 was added at 0° to 5° C. The reaction was then stirred overnight at room temperature and then 100 ml of CH2Cl2 was added. The reaction mixture was washed with 30 ml of 2N HCl, 30 ml of water and 30 ml of brine. The organic layer was dried over MgSO4 and was filtered. The solvent was evaporated and the residue from the filtrate was purified using a silica gel column and eluted with ethyl acetate/hexane (1:2 v/v). About 7.8 g of 7,10,13-tri(t-butoxycarbonyl)-7,10,13-triazapentadecanol tosylate was collected. The reaction is shown below:

reactant | 7,10,13-tri (t-butoxycarbonyl)-7,10,13-triazapentadecanol | C(C)(C)(C)OC(=O)N(CCCCCCO)CCN(CCN(CC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C27H53N3O7
reactant | dimethylaminopyridine | 100 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 7,10,13-tri (t-butoxycarbonyl)-7,10,13-triazapentadecanol Tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCCCCN(CCN(CCN(CC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H59N3O9S
